US07786304B2
In Indian Published Patent Application No. 645/MUM/2004 discloses the reaction of pyrazine-2,3-dicarboxylic acid with acetic anhydride and concomitant reaction with 2-amino-5-chloro pyridine at a temperature of 120-130° C. in a mole ratio 1.23:1 to obtain 6-(5-chloropyrid-2-yl)-5,7-dioxo-5,6-dihydropyrrolo[3,4-b]pyrazine, which is selectively reduced with sodium borohydride in the presence of organic solvent-water system. The product, 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-5,6-dihydropyrrolo[3,4-b]pyrazine (V) is reacted with 1-chlorocarbonyl-4-methyl piperazine in pyridine and methylene chloride system to yield 6-(5-chloro-2-pyridinyl)-6,7-dihydro-7-oxo-5H-pyrrolo-[3,4-b]pyrazin-5-yl-4-methyl piperazine-1-carboxylate (zopiclone).

reactant | pyrazine-2,3-dicarboxylic acid | N1=C(C(=NC=C1)C(=O)O)C(=O)O | C6H4N2O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-5-chloro pyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
product | 6-(5-chloropyrid-2-yl)-5,7-dioxo-5,6-dihydropyrrolo[3,4-b]pyrazine | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1=O)=O | C11H5ClN4O2
